US06608049B2
Analogously to the procedure of Example X, starting from 1.44 g (4.45 mmol) of 1-[5-(benzyloxy)-2-nitrophenyl]-2-hexin-1-one with 0.20 g of palladium/carbon (10%) in 50 ml of ethanol under hydrogen, after 3 h 874 mg (95%) of 1-(2-amino-5-hydroxyphenyl)-1-hexanone are obtained.

reactant | 1-[5-(benzyloxy)-2-nitrophenyl]-2-hexin-1-one | 4.45 mmol, 1.44 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C(C#CCCC)=O)[N+](=O)[O-] | C19H17NO4
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.20 g | [Pd] | Pd
product | 1-(2-amino-5-hydroxyphenyl)-1-hexanone | 874 mg, 95% | NC1=C(C=C(C=C1)O)C(CCCCC)=O | C12H17NO2
